US07858634B2
20.0 g of risedronic acid, 70 ml of deionized water and 100 ml of ter-butanol are charged into a 1-liter reactor, equipped with mechanical stirrer and thermometer. The suspension, under stirring, is added with 70.7 ml of 1M NaOH. The admixture is kept under stirring for 10′, up to complete dissolution of the undissolved solids. The solution, whose pH is 4.60, is filtered on a paper filter and put into Lioguard chambers. The chambers are introduced into a lyophilizer and processed according to example 1. At the end 19.8 g of lyophilized amorphous sodium risedronate are thus obtained (yields 92.6%).

reactant | risedronic acid | 20.0 g | C1=CC(=CN=C1)CC(O)(P(=O)(O)O)P(=O)(O)O | C7H11NO7P2
reactant | water | 70 ml | O | H2O
reactant | NaOH | 1M, 70.7 ml | [OH-].[Na+]
solvent | ter-butanol | 100 ml | C(C)(C)(C)O | C4H10O
product | sodium risedronate | 19.8 g | C1=CC(=CN=C1)CC(O)(P(=O)(O)O)P(=O)(O)[O-].[Na+] | InChI=1S/C7H11NO7P2.Na/c9-7(16(10,11)12,17(13,14)15)4-6-2-1-3-8-5-6;/h1-3,5,9H,4H2,(H2,10,11,12)(H2,13,14,15);/q;+1/p-1
